US07074794B2
4-Isopropoxyaniline (24.2 g) was dissolved in acetic acid (300 mL), and a mixture of bromine (8.25 mL) and acetic acid (80 mL) was added dropwise. After stirring at room temperature for 2 hr, the reaction mixture was concentrated under reduced pressure. Water was added to residue, and the mixture was extracted with diethylether. The extract was washed successively with aqueous sodium thiosulfate solution and brine, and concentrated under reduced pressure. The residue was purified by silica gel chromatography to give 2-bromo-4-isopropoxyaniline (10.2 g) as a black brown oil.

reactant | 4-Isopropoxyaniline | 24.2 g | C(C)(C)OC1=CC=C(N)C=C1 | C9H13NO
reactant | bromine | 8.25 mL | BrBr | Br2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-4-isopropoxyaniline | 10.2 g | BrC1=C(N)C=CC(=C1)OC(C)C | C9H12BrNO
